Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],0.73131174485
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],8.42746573332
[H:14].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.3993836139099995
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-4.98143193112
[O:1]=[C:2][C:7]([O:6][C:3]#[C:4][H:5])([H:8])[H:9]>>[O:1]=[C:2]1[C:3](=[C:4][H:5])[O:6][C:7]1([H:8])[H:9],-0.4908734439
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.792222924780001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2][H:3],3.74614039595
[H:1][C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-2.24578357162
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],4.10882472092
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.93144327853
[C:1].[C:2]#[C:3][O:4][C:5](=[O:6])[H:7]>>[C:1]#[C:2][C:3][O:4][C:5](=[O:6])[H:7],-6.45275917566
[C:12][H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-4.90947167852
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.6018801859799998
[H:1][O:2][C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:7]([H:8])=[C:9]([H:10])[H:11].[O:5][H:6],3.38416403088
[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.62291712893
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.62623011061
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.0430890023799
[H:5].[O:1]=[C:2]([C:3]([H:4])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.78959841335
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7],3.0945019513
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12].[H:4],2.04088130847
[C:1]#[C:2].[C:3](\[O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-6.44731554025
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.49360958946
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3],5.632246135959999
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.98460520032
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.91880835272
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6])[C:8]([H:9])([H:10])[H:11],4.26202934384
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.17126130276
